US07897823B2
1,1,1,2,2,3,3,4,4,5,5-Undecafluoroheptane (CF3CF2CF2CF2CF2CH2CH3) may be prepared by reaction of 1,1,1,2,2,3,3,4,4,5,5-undecafluoro-5-iodo-pentane with ethylene to give 1,1,1,2,2,3,3,4,4,5,5-undecafluoro-7-iodo-heptane followed by zinc reduction in an acid such as HCl or acetic acid.

reactant | 1,1,1,2,2,3,3,4,4,5,5-Undecafluoroheptane | FC(C(C(C(C(CC)(F)F)(F)F)(F)F)(F)F)(F)F | C7H5F11
reactant | 1,1,1,2,2,3,3,4,4,5,5-undecafluoro-5-iodo-pentane | FC(C(C(C(C(I)(F)F)(F)F)(F)F)(F)F)(F)F | C5F11I
reactant | ethylene | C=C | C2H4
product | 1,1,1,2,2,3,3,4,4,5,5-undecafluoro-7-iodo-heptane | FC(C(C(C(C(CCI)(F)F)(F)F)(F)F)(F)F)(F)F | C7H4F11I
